* C:\Users\Marcelo\Documents\LTspice\NAND2\NAND2.asc
M1 N002 B 0 0 NMOS l=0.15u w=1.24u
V2 Vdd 0 2
C1 out 0 30f
M3 out A N002 0 NMOS l=0.15u w=1.24u
M4 Vdd A out Vdd PMOS l=0.15u w=2.85u
M5 Vdd B out Vdd PMOS l=0.15u w=2.85u
V1 B 0 PULSE(0 2 0 1n 1n 5u 10u)
V3 A 0 PULSE(0 2 0 1n 1n 10u 20u)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Marcelo\AppData\Local\LTspice\lib\cmp\standard.mos
.model NMOS NMOS(KP=400u VT0=0.45)
.model PMOS PMOS(KP=87u VT0=-0.45)
.tran 21u
.backanno
.end
